US07714126B2
With a procedure similar to example 43 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (3-hydroxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 5′-amino-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-3-ol. LCMS calcd for C21H19F3N4O3 (m/e) 432, obsd 433 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 5′-amino-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-3-ol | NC=1C=CC(=NC1)N1CC(CCC1)O | C10H15N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (3-hydroxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-amide | OC1CN(CCC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C21H19F3N4O3
